US04021441
In the manner given in Example 3, a solution of potassium hydroxide and (cyclopropylmethyl)amine hydrochloride is treated with a solution of 8-chloro-1-(chloromethyl)-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine and potassium iodide in tetrahydrofuran to give 8-chloro-1-[[(cyclopropylmethyl)amino]methyl]-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | potassium hydroxide | [OH-].[K+]
reactant | (cyclopropylmethyl)amine hydrochloride | Cl.C1(CC1)CN
reactant | 8-chloro-1-(chloromethyl)-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3F)F)C1 | C17H10Cl2F2N4
reactant | potassium iodide | [I-].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-chloro-1-[[(cyclopropylmethyl)amino]methyl]-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCC3CC3)C3=C(C=CC=C3F)F)C1 | C21H18ClF2N5
